US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(2-methyl-3-benzo[b]furyl)-1-hexanone were reacted and treated in the same manner as in Example 172 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(2-methyl-3-benzo[b]furyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(2-methyl-3-benzo[b]furyl)-1-hexanone | BrCCCCCC(=O)C=1C2=C(OC1C)C=CC=C2 | C15H17BrO2
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(2-methyl-3-benzo[b]furyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C=2C3=C(OC2C)C=CC=C3)C=C1Cl)OC | C29H36ClN3O4
